US06951855B2
A solution of 7-(4-methoxyanilino)-2H-1,4-benzoxazin-3(4H)-one (135 mg; 0.5 mmol) in CH2Cl2 (2 ml) was treated with BBr3 (350 mg; 1.5 mmol). The mixture was stirred at room temperature for overnight. After evaporation to dryness the residue was taken up in EtOAC and saturated aqueous NaHCO3. The organic phase was washed with water, brine and dried over MgSO4. The residue (147 mg) was triturated with EtOAc, filtered and dried to give 7-(4-hydroxyanilino)-2H-1,4-benzoxazin-3-(4H)-one as a magenta solid (120 mg), Melting point 270-275° C. Yield: 94% 1H NMR spectrum (DMSO d6): 4.48(s, 2H); 6.46 (d, 1H); 6.48 (dd, 1H); 6.68-6.72 (m, 3H); 6.89 (m, 2H); 7.56 (s, 1H); 8.98 (s, 1H); 10.42 (s, 1H). LCMS-ESI: 256 [MH]+

reactant | 7-(4-methoxyanilino)-2H-1,4-benzoxazin-3(4H)-one | 0.5 mmol, 135 mg | COC1=CC=C(NC2=CC3=C(NC(CO3)=O)C=C2)C=C1 | C15H14N2O3
reactant | BBr3 | 1.5 mmol, 350 mg | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 7-(4-hydroxyanilino)-2H-1,4-benzoxazin-3-(4H)-one | 120 mg, Yield: 94% | OC1=CC=C(NC2=CC3=C(NC(CO3)=O)C=C2)C=C1 | C14H12N2O3
